US06627651B1
Into a suspension of 7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine-4-carboxylic acid (280 mg) in methanol (20 ml)/ethyl acetate (10 ml) was added 10% palladium on charcoal (50% water content, 70 mg). Hydrogen gas was introduced, and the resulting mixture was stirred at room temperature for 17 hours and at 50° C. for 3 hours, and was then filtered to remove the catalyst. The filtrate was concentrated, and the residue was recrystallized from ethyl acetate/hexane to obtain 7-(4-methylphenyl)-2,3,4,5-tetrahydro-1-benzooxepine-4-carboxylic acid (187 mg) as colorless crystals.

reactant | 7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine-4-carboxylic acid | 280 mg | CC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)O)C1 | C18H16O3
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | Hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium on charcoal | 70 mg | [Pd] | Pd
product | 7-(4-methylphenyl)-2,3,4,5-tetrahydro-1-benzooxepine-4-carboxylic acid | 187 mg | CC1=CC=C(C=C1)C=1C=CC2=C(CC(CCO2)C(=O)O)C1 | C18H18O3
